US03965190
A solution of 56.9 g. (237 mmols) of 3-trifluoromethyl-thiobenzoic acid chloride in 285 ml. of anhydrous toluene and 5.7 g. of 5 per cent strength palladium on barium sulphate is introduced into a one litre three-necked flask equipped with a condenser, a mechanical stirrer and a gas bubbler tube. This mixture is heated, with stirring, for 12 hours at the reflux temperature, while a gentle stream of hydrogen is bubbled through it. The catalyst is filtered off and washed with diethyl ether. 125 ml. of a solution of sodium bisulphite (d = 1.33) are added to the filtrate. This mixture is stirred vigorously for 24 hours and the bisulphite compound is filtered off, washed with diethyl ether and introduced into a three-necked flask. A solution of 80 g. of potassium carbonate in 500 ml. of water is added and the mixture is boiled, so as to steam distil the aldehyde as it is formed. The distillate is extracted twice in succession with diethyl ether. The combined ether phases are dried over sodium sulphate and filtered. The solvent is evaporated in vacuo on a water bath and the residue is rectified. 33.3 g. (67% yield) of 3-trifluoromethylthio-benzaldehyde, as an oil, b.p. 108°-111°C./30-38 mm.Hg., are thus obtained.

reactant | 3-trifluoromethyl-thiobenzoic acid chloride | 237 mmols | FC(C=1C=C(C(=S)Cl)C=CC1)(F)F | C8H4ClF3S
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-trifluoromethylthio-benzaldehyde | 67% yield | FC(C=1C=C(C=S)C=CC1)(F)F | C8H5F3S
